US07691850B2
f) {4-[(1,1-dimethylethyl)thio]-5-hydroxy-2-pyridinyl}methyl acetate
A solution of [4-[(1,1-dimethylethyl)thio]-5-({[4-(methoxy)phenyl]methyl}oxy)-2-pyridinyl]methyl acetate (9 g, 24 mmol) in dichloromethane (100 mL) was treated with triethylsilane (3.86 mL, 24 mmol). The reaction mixture was stirred for 10 minutes before adding trifluoroacetic acid (10 mL). The reaction mixture was stirred at room temperature for 3 hours under argon atmosphere. The solvents were evaporated under vacuum. The residue was taken up in dichloromethane and chromatographed on silica gel eluting with 10%-30% ethyl acetate in hexane to afford the product as an oil (5.1 g, 83%); MS (+ve ion electrospray) m/z 256 (MH+).

reactant | [4-[(1,1-dimethylethyl)thio]-5-({[4-(methoxy)phenyl]methyl}oxy)-2-pyridinyl]methyl acetate | 24 mmol, 9 g | C(C)(=O)OCC1=NC=C(C(=C1)SC(C)(C)C)OCC1=CC=C(C=C1)OC | C20H25NO4S
reactant | triethylsilane | 24 mmol, 3.86 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | {4-[(1,1-dimethylethyl)thio]-5-hydroxy-2-pyridinyl}methyl acetate | 5.1 g, 83% | C(C)(=O)OCC1=NC=C(C(=C1)SC(C)(C)C)O | C12H17NO3S
